US07498346B2
Bromine (0.35 mL, 6.8 mmol) was added dropwise to a solution of 3-bromo-4-methyl-pyridin-2-ylamine (0.44 g, 2.4 mmol) in 48% HBr (3 mL) at −10° C. to give an orange slurry. After 5 minutes NaNO2 (0.47 g, 6.8 mmol), dissolved in water (1.5 mL), was added dropwise over 5 minutes. The dark brown mixture was slowly warmed to 10° C. over 3.5 h and then cooled to 0° C. and quenched with 10N NaOH until pH˜12. The resulting orange slurry was extracted with CH2Cl2 (3×50 mL), dried (Na2SO4), filtered and concentrated in vacuo to give an orange/brown solid. Purification by column chromatography on silica gel (Hexanes:Et2O, 7:3, v/v) yielded 2,3-dibromo-4-methyl-pyridine (0.28 g, 47%) as a pale yellow solid. 1H NMR (CDCl3) δ 2.48 (s, 3H), 7.11 (d, 1H, J=6.0 Hz), 8.16 (d, 1H, J=6.0 Hz).

reactant | Bromine | 6.8 mmol, 0.35 mL | BrBr | Br2
reactant | 3-bromo-4-methyl-pyridin-2-ylamine | 2.4 mmol, 0.44 g | BrC=1C(=NC=CC1C)N | C6H7BrN2
reactant | NaNO2 | 6.8 mmol, 0.47 g | N(=O)[O-].[Na+]
solvent | HBr | 3 mL | Br | BrH
solvent | water | 1.5 mL | O | H2O
product | 2,3-dibromo-4-methyl-pyridine | 0.28 g, 47% | BrC1=NC=CC(=C1Br)C | C6H5Br2N
